US05744609
To a 1000 ml four-necked flask equipped with a stirrer, a thermometer, and a condenser, 48.6 g (0.2 mol) of N-phenyl-2-(methylthio)benzamide obtainedin Example 1, 300 g of toluene, and 200 g of a 10% by weight aqueous solution of potassium bicarbonate are placed. To the above mixture in the flask, 32.0 g (0.2 mol) of bromine is added dropwise while stirring at a temperature of from 10° to 15° C. to be allowed to react with each other for about 10 minutes. After completion of the reaction, the produced white crystals are filtered and then recrystallized from a mixture of water and ethanol (1:9) to give 48.7 g of N-phenyl-2-(methylsulfinyl)benzamide (melting point: 194° to 195° C.). The yield of the product against N-phenyl-2-(methylthio)benzamide is 94%.

reactant | N-phenyl-2-(methylthio)benzamide | 0.2 mol, 48.6 g | C1(=CC=CC=C1)NC(C1=C(C=CC=C1)SC)=O | C14H13NOS
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | bromine | 0.2 mol, 32.0 g | BrBr | Br2
solvent | toluene | 300 g | C1(=CC=CC=C1)C | C7H8
product | N-phenyl-2-(methylsulfinyl)benzamide | 48.7 g | C1(=CC=CC=C1)NC(C1=C(C=CC=C1)S(=O)C)=O | C14H13NO2S
